US05688803
350 mg (1.04 mmol) of ethyl (6-dimethylamino-7-nitro-2-oxo-1,2-dihydro-quinazolin-4-yl)-carbazate in 30 ml of dry dimethylformamide were heated at reflux for 3 hrs. The reaction mixture was cooled to room temperature and the solvent was removed on a rotary evaporator. The residue was triturated with a small amount of acetone and the red precipitate was filtered off and dried in a vacuum. 195 mg (65%) of 9-dimethylamino-8-nitro-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione were obtained as a red powder.

reactant | ethyl (6-dimethylamino-7-nitro-2-oxo-1,2-dihydro-quinazolin-4-yl)-carbazate | 1.04 mmol, 350 mg | CN(C=1C=C2C(=NC(NC2=CC1[N+](=O)[O-])=O)N(C(=O)OCC)N)C | C13H16N6O5
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 9-dimethylamino-8-nitro-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione | 195 mg, 65% | CN(C1=CC=2C=3N(C(NC2C=C1[N+](=O)[O-])=O)C(NN3)=O)C | C11H10N6O4
